US09238644B2
(c) tert-Butyl 4-(5-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate (K5)
A 1.0 M ZnCl2 solution in Et2O (1.14 mL, 1.14 mmol) was added cautiously to a stirred solution of 2,4-dichloro-5-(trifluoromethyl)pyrimidine (217 mg, 0.999 mmol) in a 1:1 t-BuOH:DCE mixture (50 mL) at room temperature. After completion of the addition stirring was continued for 20 minutes then tert-butyl 4-(5-aminopyridin-2-yl)piperidine-1-carboxylate (I9) (263 mg, 0.952 mmol) followed by Et3N (0.159 mL, 1.14 mmol) were added. The resulting mixture was stirred at room temperature for 48 hours then the volatiles were evaporated under reduced pressure and the resulting residue was purified using silica gel column chromatography (Biotage Isolera, 24 g SiO2 cartridge, 0-55% EtOAc in petroleum benzine 40-60° C.) to give the title compound K5 as a white solid (155 mg, 36%); 1H NMR (400 MHz, d6-DMSO) δ 10.75 (s, 1H), 8.82 (s, 1H), 8.73 (d, J=2.4 Hz, 1H), 8.00 (dd, J=8.5, 2.4 Hz, 1H), 7.30 (d, J=8.5 Hz, 1H), 4.11-4.01 (m, 2H), 2.93-2.75 (m, 3H), 1.81 (d, J=11.1 Hz, 2H), 1.63-1.50 (m, 2H), 1.41 (s, 9H). LCMS-A: rt 5.604 min; m/z 458, 460 [M+H]+.

reactant | Et2O | 1.14 mmol, 1.14 mL | CCOCC | C4H10O
reactant | 2,4-dichloro-5-(trifluoromethyl)pyrimidine | 0.999 mmol, 217 mg | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | tert-butyl 4-(5-aminopyridin-2-yl)piperidine-1-carboxylate | 0.952 mmol, 263 mg | NC=1C=CC(=NC1)C1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O2
reactant | Et3N | 1.14 mmol, 0.159 mL | CCN(CC)CC | C6H15N
catalyst | ZnCl2 | 1.0 M | [Cl-].[Cl-].[Zn+2]
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
solvent | t-BuOH | CC(C)(C)O | C4H10O
product | tert-Butyl 4-(5-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate | ClC1=NC(=NC=C1C(F)(F)F)NC=1C=CC(=NC1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H23ClF3N5O2
